US04643849
With 15 ml of ethanol was mixed 0.8 g of N-[2-hydroxy-2-(4-nitrophenyl)ethyl]-2-nitro-N'-[3-(3-piperidinomethylphenoxy)propyl]-1,1-ethenediamine, and hydrogen gas was introduced thereinto in the presence of 0.1 g of 5% (by weight) palladium carbon at ordinary temperature and under atmospheric pressure for 7 hours until the absorption of hydrogen gas ceased. Subsequently, the catalyst was removed by filtration and the solvent was removed by distillation under reduced pressure. The resulting residue was purified by a column chromatography (Wako Silica Gel C-200, eluent; chloroform:methanol=5:1 by volume) to obtain 0.3 g (yield 40%) of amorphous N-[2-(4-aminophenyl)-2-hydroxyethyl]-2-nitro-N'-[3-(3-piperidinomethylphenoxy)propyl]-1,1-ethenediamine.

reactant | N-[2-hydroxy-2-(4-nitrophenyl)ethyl]-2-nitro-N'-[3-(3-piperidinomethylphenoxy)propyl]-1,1-ethenediamine | 0.8 g | OC(CNC(=C[N+](=O)[O-])NCCCOC1=CC(=CC=C1)CN1CCCCC1)C1=CC=C(C=C1)[N+](=O)[O-] | C25H33N5O6
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | N-[2-(4-aminophenyl)-2-hydroxyethyl]-2-nitro-N'-[3-(3-piperidinomethylphenoxy)propyl]-1,1-ethenediamine | 0.3 g, yield 40% | NC1=CC=C(C=C1)C(CNC(=C[N+](=O)[O-])NCCCOC1=CC(=CC=C1)CN1CCCCC1)O | C25H35N5O4
